US09278915B2
Intermediate 169: Methyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate
To a stirring suspension of NaH (3.7 g, 154.2 mmol) in DMF (25 mL) was added 1-[4-(benzyloxy)phenyl]ethanone (7 g, 31 mmol) at −5° C. and stirred for 30 min, then dim ethyl carbonate (13.5 g, 150 mmol, dissolved in DMF) was added at −5° C. slowly (exothermic) and warmed slowly to RT, stirred at RT for overnight. Reaction mass was quenched with ice cold water and extracted with ethyl acetate, organic layer was washed with water and brine dried over Na2SO4. The organic layer was concentrated to give the product (7 g, Yield: 92%): 1H NMR (300 MHz, CDCl3): δ 7.84-7.87 (d, 2H), 7.28-7.35 (m, 5H), 6.94-6.96 (d, 2H), 5.07 (s, 2H), 3.89 (s, 2H), 3.68 (s, 3H)

reactant | NaH | 154.2 mmol, 3.7 g | [H-].[Na+]
reactant | 1-[4-(benzyloxy)phenyl]ethanone | 31 mmol, 7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C15H14O2
reactant | dim ethyl carbonate | 150 mmol, 13.5 g | C(OC)(OC)=O | C3H6O3
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate | 7 g, Yield: 92% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)OC)=O | C17H16O4
